US07442794B2
4-Amino-6-fluoro-2,3-dihydroisoindol-1-one
1.86 g (7.32 mmol) of 2-(azidomethyl)-5-fluoro-3-nitrobenzoic acid methyl ester is added into 46 ml of ethanol and 3.4 ml of glacial acetic acid, and it is mixed with 256.6 mg of Pd/C. After stirring overnight at room temperature under hydrogen atmosphere, the catalyst is suctioned off with a glass-fiber filter, and the filtrate is evaporated to the dry state. The residue, 1.18 mg (97.5%) of the desired compound, is further used in crude form.

reactant | 2-(azidomethyl)-5-fluoro-3-nitrobenzoic acid methyl ester | 7.32 mmol, 1.86 g | COC(C1=C(C(=CC(=C1)F)[N+](=O)[O-])CN=[N+]=[N-])=O | C9H7FN4O4
reactant | ethanol | 46 ml | C(C)O | C2H6O
catalyst | Pd/C | 256.6 mg | [Pd] | Pd
solvent | acetic acid | 3.4 ml | C(C)(=O)O | C2H4O2
product | 4-Amino-6-fluoro-2,3-dihydroisoindol-1-one | NC1=C2CNC(C2=CC(=C1)F)=O | C8H7FN2O
